US06051712
4.20 g (50 mmol) of sodium hydrogen carbonate and 20 ml of water were added to a solution of 4.89 g (23.4 mmol) of (3RS,4SR)-[4-(4-fluoro-phenyl)-piperidin-3-yl]-methanol in 60 ml of dioxan, then 6.10 g (28 mmol) of di-tert-butyl dicarbonate were introduced portionwise and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured on to ice-water and the product was extracted twice with 200 ml of ethyl acetate each time; the organic phases were washed once with 300 ml of water, dried over magnesium sulphate, filtered and concentrated in a water-jet vacuum. The thus-obtained crude product was chromatographed on silica gel with methylene chloride and methanol as the eluent. There were obtained 7.03 g (97% of theory) of tert-butyl (3RS,4SR)-4-(4-fluoro-phenyl)-3-hydroxymethyl-piperidine-1-carboxylate; MS: 309 (M)+.

reactant | sodium hydrogen carbonate | 50 mmol, 4.20 g | C(O)([O-])=O.[Na+]
reactant | water | 20 ml | O | H2O
reactant | (3RS,4SR)-[4-(4-fluoro-phenyl)-piperidin-3-yl]-methanol | 23.4 mmol, 4.89 g | FC1=CC=C(C=C1)C1C(CNCC1)CO | C12H16FNO
reactant | di-tert-butyl dicarbonate | 28 mmol, 6.10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxan | 60 ml | O1CCOCC1 | C4H8O2
product | tert-butyl (3RS,4SR)-4-(4-fluoro-phenyl)-3-hydroxymethyl-piperidine-1-carboxylate | 7.03 g, 97% | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
